US08975252B2
A 0.5M solution of B-benzyl-9-BBN in tetrahydrofuran (1.8 ml) was added to a solution of tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methy}cyclopropylcarbamate (200 mg), potassium phosphate (290 mg), palladium acetate(II) (4 mg) and S-Phos (15 mg) in N,N-dimethylformamide (5 ml) under argon atmosphere and the mixture was stirred at 60° C. for 18 hours. Water was added to the reaction mixture under ice-cooling and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=2/1) to give tert-butyl {[3-benzyl-1-(3-methoxypropyl)-1H-indazol-6-yl]methy}cyclopropylcarbamate (198 mg) as a colorless oil.

reactant | B-benzyl-9-BBN | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
reactant | tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methy}cyclopropylcarbamate | 200 mg | BrC1=NN(C2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC | C20H28BrN3O3
reactant | potassium phosphate | 290 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 1.8 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | S-Phos | 15 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
product | tert-butyl {[3-benzyl-1-(3-methoxypropyl)-1H-indazol-6-yl]methy}cyclopropylcarbamate | 198 mg | C(C1=CC=CC=C1)C1=NN(C2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC | C27H35N3O3
